US05217961
N(chloroacetyl)anthranilic acid 4.0 g (8 mmol) and p-fluoroaniline 5.3 ml (56 mmol) were dissolved in 4 ml of dimethylformamide and heated at 80° to 90° C. for 4 hours. The reaction solution was poured into ice water and deposited crystals were collected by filtration. These crystals were washed with ether and recrystallized from ethanol to obtain N-[(4-fluorophenylamino)acetyl]anthranilic acid (melting point: 217° to 219° C.) 2.4 g (yield: 46%).

reactant | N(chloroacetyl)anthranilic acid | 8 mmol, 4.0 g | ClCC(=O)NC=1C(C(=O)O)=CC=CC1 | C9H8ClNO3
reactant | p-fluoroaniline | 56 mmol, 5.3 ml | FC1=CC=C(N)C=C1 | C6H6FN
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | N-[(4-fluorophenylamino)acetyl]anthranilic acid | 2.4 g, yield: 46% | FC1=CC=C(C=C1)NCC(=O)NC=1C(C(=O)O)=CC=CC1 | C15H13FN2O3
